US06992087B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a pale yellow semi-solid. IR (liq.) 2971, 2935, 2875, 1606, 1565, 1480, 1440, 1391, 1287, 1230, 1206, 1183, 1091, 1079, 1044 cm−1; OAMS supporting ions at: ESI+ 452.1; MS (EI) m/z 451 (M+); MS (FAB) calcd for C26H30CLN3O2 +H1 452.2104, found 452.2100. [α]25D=−91 (c 0.39, methylene chloride); Anal. Calcd for C26H30ClN3O2: C, 69.09; H, 6.69; N, 9.30. Found: C, 69.04; H, 6.74; N, 9.30.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C24H26ClN3O2
product | 5-(2-chloro-4-methoxyphenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C26H30ClN3O2
